US08937078B2
Step F: Preparation of 1-(7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid.
A mixture of 1-(7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (240 mg, 0.74 mmol), 1M aq. LiOH (4.0 mL), and THF (6 mL) was rapidly stirred for 6 h. The mixture was concentrated to remove the THF, and the aqueous residue was cooled to 0° C. and acidified to pH 2 with 1 M aq. HCl. The resulting precipitate was collected by filtration to provide the titled compound (205 mg, 71%). MS (Cl): mass calcd. for C12H7ClN4O3, 290.7; m/z found, 289.0 [M−H]−. 1H NMR (400 MHz, DMSO-d6): 12.99 (br s, 2H), 8.93 (d, J=0.7 Hz, 1H), 8.27 (s, 1H), 8.11 (d, J=8.5 Hz, 1H), 7.74 (d, J=1.9 Hz, 1H), 7.54 (dd, J=8.5, 2.1 Hz, 1H).

reactant | 1-(7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.74 mmol, 240 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC(=CC=C2C(N1)=O)Cl | C14H11ClN4O3
reactant | LiOH | 1M, 4.0 mL | [Li+].[OH-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1-(7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid | 205 mg, 71% | ClC1=CC=C2C(NC(=NC2=C1)N1N=CC(=C1)C(=O)O)=O | C12H7ClN4O3
